US05733476
In a 50 ml-three-necked flask, 2.00 g (8.61 mM) of 2-octylcoumaran and 3.2 ml of dichloremethane were placed and mixed to obtain a solution. To the solution, 0.73 (8.69 mM) of NaHCO3 and 3.2 ml of water were added. To the mixture, a solution of 0.44 ml (0.54 mM) of bromine in 1 ml of dichloromethane were added dropwise in 17 minutes under stirring on an ice bath, followed by stirring for 3 hours and 25 minutes at room temperature. After the reaction, the reaction mixture was poured into ice water and subjected to extraction with dichloromethane, followed by two times washing with a common salt aqueous solution and drying with mirabilite. The resultant mixture was concentrated under reduced pressure to obtain 2.58 g of 5-bromo-2-octylcoumaran (Yield: 96.3%).

reactant | 2-octylcoumaran | 8.61 mM, 2.00 g | C(CCCCCCC)C1OC2=CC=CC=C2C1 | C16H24O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | water | 3.2 ml | O | H2O
reactant | bromine | 0.54 mM, 0.44 ml | BrBr | Br2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 5-bromo-2-octylcoumaran | 2.58 g, Yield: 96.3% | BrC=1C=C2CC(OC2=CC1)CCCCCCCC | C16H23BrO
